US04616090
1 g of 2-(4-carboxymethoxy-2-methoxyphenyl)-imidazo(4,5-b)pyridine is dissolved in 20 ml of ethanol, the solution is saturated with HCl gas and allowed to stand overnight. After concentration and the usual work-up, 2-(4-ethoxycarbonylmethoxy-2-methoxyphenyl)-imidazo(4,5-b)pyridine is obtained; hemfumarate, m.p. 198°.

reactant | 2-(4-carboxymethoxy-2-methoxyphenyl)-imidazo(4,5-b)pyridine | 1 g | C(=O)(O)COC1=CC(=C(C=C1)C=1NC=2C(=NC=CC2)N1)OC | C15H13N3O4
reactant | HCl | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-ethoxycarbonylmethoxy-2-methoxyphenyl)-imidazo(4,5-b)pyridine | C(C)OC(=O)COC1=CC(=C(C=C1)C=1NC=2C(=NC=CC2)N1)OC | C17H17N3O4
